US07517996B2
(Step 2) Synthesis of 4-(2-chloroethyl)benzaldehyde oxime
4-(2-Chloroethyl)benzaldehyde (1.70 g, 10.08 mmol) was dissolved in ethanol (35 ml), hydroxylamine hydrochloride (1.05 g, 15.11 mmol) was added, and the mixture was stirred at 50° C. for 2 hours. Ethanol was evaporated under reduced pressure, and water was added. The mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.75 g, 95%).

reactant | 4-(2-Chloroethyl)benzaldehyde | 10.08 mmol, 1.70 g | ClCCC1=CC=C(C=O)C=C1 | C9H9ClO
reactant | hydroxylamine hydrochloride | 15.11 mmol, 1.05 g | Cl.NO
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-(2-chloroethyl)benzaldehyde oxime | 1.75 g, 95% | ClCCC1=CC=C(C=NO)C=C1 | C9H10ClNO
